US07855297B2
A BH3-THF complex/1M THF solution (6.3 mL) was added to N-(4-isopropylphenyl)-6-methoxypyridine-3-carboxamide (0.76 g), and the mixture was heated under reflux for 4 hr. After cooling the reaction mixture, 1 mol/L hydrochloric acid (15 mL) was added and the mixture was stirred at room temperature for one day. The reaction mixture was poured into saturated aqueous sodium hydrogencarbonate and extracted with chloroform. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated and the residue was purified by silica gel column chromatography to give (4-isopropylphenyl)[(6-methoxypyridin-3-yl)methyl]amine (0.62 g).

reactant | N-(4-isopropylphenyl)-6-methoxypyridine-3-carboxamide | 0.76 g | C(C)(C)C1=CC=C(C=C1)NC(=O)C=1C=NC(=CC1)OC | C16H18N2O2
reactant | hydrochloric acid | 1 mol/L, 15 mL | Cl | ClH
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | THF | 1M, 6.3 mL | C1CCOC1 | C4H8O
product | (4-isopropylphenyl)[(6-methoxypyridin-3-yl)methyl]amine | 0.62 g | C(C)(C)C1=CC=C(C=C1)NCC=1C=NC(=CC1)OC | C16H20N2O
